US07271130B2
This Example illustrates the preparation of 2-(3-cyano-5-methoxyphenoxy)-N-(2-methylpent-3-yn-2-yl)-3-methoxypropionamide (Compound No. 16 in Table 1)
3-Cyano-5-methoxyphenol (prepared as described in J. Med. Chem. (1993), 36, No 16, 2367; 0.119 g) in dry N,N-dimethylformamide (3 ml) containing anhydrous potassium carbonate (0.168 g) and 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide (0.210 g) were stirred and heated to 80° C. for 5 hours. The mixture was cooled to ambient temperature, stored for 2 days then poured into water and extracted with ethyl acetate. The organic phases were combined, washed with water, dried over magnesium sulphate then evaporated under reduced pressure to give a brown gum. The gum was fractionated by chromatography (silica; hexane/ethyl acetate 3:2 by volume) to give the required product (0.110 g) as a colourless gum.

reactant | 3-Cyano-5-methoxyphenol | C(#N)C=1C=C(C=C(C1)OC)O | C8H7NO2
reactant | potassium carbonate | 0.168 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide | 0.210 g | BrC(C(=O)NC(C#CC)(C)C)COC | C10H16BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3-cyano-5-methoxyphenoxy)-N-(2-methylpent-3-yn-2-yl)-3-methoxypropionamide | 0.110 g | C(#N)C=1C=C(OC(C(=O)NC(C)(C#CC)C)COC)C=C(C1)OC | C18H22N2O4
